US06423869B1
(S)-3-[(2S,3R,4R,5S)-5-(N-benzyloxycarbonyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionamide
A solution of (S)-3-[(2S,3R,4R,5S)-5-(N-benzyloxycarbonyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionic acid (295 mg), N-hydroxysuccinimide (58 mg) and N,N′-dicyclohexylcarbodimide (103 mg) in acetonitrile (10 ml) was stirred at room temperature for 3 hours and the formed insoluble solid was filtrated off. Removal of the organic solvent gave a residue, which was dissolved in dimethylformamide (5 ml), followed by addition of 25% aqueous ammonia solution (1 ml). The mixture was stirred at room temperature for 1 hour and concentrated under reduced pressure. The residue was extracted with ethyl acetate and the extract was washed with 1N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated brine respectively. After drying over anhydrous sodium sulfate, removal of the organic solvent gave a residue, which was recrystallized from methanol-diethylether to give the title compound (97 mg).

reactant | (S)-3-[(2S,3R,4R,5S)-5-(N-benzyloxycarbonyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionic acid | 295 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@H]([C@H]([C@H]([C@@H](C(=O)N[C@@H](CC(=O)O)C1=CC=CC=C1)O)O)O)CO | C29H39N3O10
reactant | N-hydroxysuccinimide | 58 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N′-dicyclohexylcarbodimide | 103 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ammonia | 1 ml | N | H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (S)-3-[(2S,3R,4R,5S)-5-(N-benzyloxycarbonyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionamide | 97 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@H]([C@H]([C@H]([C@@H](C(=O)N[C@@H](CC(=O)N)C1=CC=CC=C1)O)O)O)CO | C29H40N4O9
